US07541374B2
44.45 g of methyl 3,3-dimethoxypropionate and 45 ml of methyl formate was dissolved to 180 ml of dimethoxyethane. Under nitrogen atmosphere, 12.8 g of 60% sodium hydride was added to the solution keeping the temperature of the solution at 40 to 50° C. during addition. Then the mixture was stirred at room temperature for 18 hours. 180 ml of diethylether was added to the reaction mixture, as a result, a solid was formed. The solid was collected by filteration, followed by washing with 60 ml of diethylether. The obtained solid was dried under reduced pressure for overnight to obtain 49.41 g of methyl 2-(dimethoxymethyl)-3-hydroxy-acrylate sodium salt. 9.91 g of methyl 2-(dimethoxymethyl)-3-hydroxy-acrylate sodium salt was suspended to 100 ml of ethanol. 2.50 g of hydrazine hydrate was added to the suspension, followed by stirring at room temperature for 3 hours and at 80° C. for 1 hour. 100 ml of water was added to the reaction mixture which was cooled to room temperature. The mixture was concentrated under reduced pressure to about 100 ml. The concentrated solution was extracted by ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved to ethyl acetate, activated carbon was added to it, and stirred for overnight. The suspension was filtered. The filtrate was concentrated under reduced pressure. The residue was recrystallized from hexane-ethyl acetate to obtain 1.40 g of 4-methoxycarbonyl-1H-pyrazole.

reactant | methyl 2-(dimethoxymethyl)-3-hydroxy-acrylate sodium salt | 9.91 g | [Na].COC(C(C(=O)OC)=CO)OC
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrazine hydrate | 2.50 g | O.NN
solvent | water | 100 ml | O | H2O
product | 4-methoxycarbonyl-1H-pyrazole | 1.40 g | COC(=O)C=1C=NNC1 | C5H6N2O2
